US06060483
6-Methyl-8β-hydroxvmethyl-10α-(2-hydroxy)ethoxy-ergoline
A stirred solution of 10 g of 6-methyl-8β-hydroxymethyl-10α-methoxy-ergoline in 100 ml of ethylen glycol was treated with 7.5 ml of concentrated sulphuric acid at room temperature. After stirring for 3 hour, the solution was poured into ice water then made alkaline with concentrated sodium hydroxyde. The precipitated was collected washed with water, and crystallised from ehanol to provide the title compound in 75% yield, m.p. 201-205° C.

reactant | 6-methyl-8β-hydroxymethyl-10α-methoxy-ergoline | 10 g | CN1C[C@@H](C[C@@]2(C=3C=CC=C4NC=C(C[C@@H]12)C34)OC)CO | C17H22N2O2
reactant | sulphuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium | [Na] | Na
reactant | ethylen glycol | 100 ml | C(CO)O | C2H6O2
product | 6-Methyl-8β-hydroxvmethyl-10α-(2-hydroxy)ethoxy-ergoline | 75% yield | CN1C[C@@H](C[C@@]2(C=3C=CC=C4NC=C(C[C@@H]12)C34)OCCO)CO | C18H24N2O3
